US04970218
N-(3-Methyl-4-pyridinyl)-1H-indol-1-amine
The title compound was prepared from 1H-indol-1-amine and 4-chloro-3-methylpyridine hydrochloride in isopropanol at 90° C. for 6 hours in substantially the same manner as in Example 1, m.p. 78°-80° C.

reactant | 1H-indol-1-amine | N1(C=CC2=CC=CC=C12)N | C8H8N2
reactant | 4-chloro-3-methylpyridine hydrochloride | Cl.ClC1=C(C=NC=C1)C
solvent | isopropanol | C(C)(C)O | C3H8O
product | N-(3-Methyl-4-pyridinyl)-1H-indol-1-amine | CC=1C=NC=CC1NN1C=CC2=CC=CC=C12 | C14H13N3
